US04208510
Preparation of n-Pentyl 2-[3-(3-Trifluoromethylphenyl)-5-Isoxazolyl]Benzoate
A solution of 3'-(m-trifluoromethylphenyl)-spiro[isobenzofuran-1(3H),5'(4'H)-isoxazol]-3-one (10 g., 0.03 mole) and concentrated H2SO4 (1 ml.) in n-pentyl alcohol (150 ml.) was held at reflux for 14 hours, cooled and poured into 300 ml. of ice water. The mixture was extracted with 600 ml. of ether. The ethereal solution was washed two times with water, dried over CaSO4 and concentrated under vacuum to give 12.05 g. of product as a yellow oil (99%). The oil was chromatographed on silica gel using ethyl acetate as the eluant. 8.4 g. of colorless oil was collected; ir (CHCl3) 1725 cm-1 ; nD25 =1.537.

reactant | 3'-(m-trifluoromethylphenyl)-spiro[isobenzofuran-1(3H),5'(4'H)-isoxazol]-3-one | 0.03 mole, 10 g | FC(C=1C=C(C=CC1)C1=NOC2(C1)OC(C1=CC=CC=C12)=O)(F)F | C17H10F3NO3
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | n-pentyl alcohol | 150 ml | C(CCCC)O | C5H12O
product | n-Pentyl 2-[3-(3-Trifluoromethylphenyl)-5-Isoxazolyl]Benzoate | FC(C=1C=C(C=CC1)C1=NOC(=C1)C1=C(C(=O)OCCCCC)C=CC=C1)(F)F | C22H20F3NO3
